US08633200B2
5-Methyl-7-p-tolylpyrazolo[1,5-a]pyrimidine-6-carbaldehyde
To a stirred solution of (5-methyl-7-p-tolylpyrazolo[1,5-a]pyrimidin-6-yl)methanol (300 mg, 1.18 mmol) in CH2Cl2 (24 mL) was added PCC (383 mg, 1.78 mmol). The reaction mixture was stirred at room temperature for 16 h. The solvent was evaporated and the residue was purified by silica gel chromatography to give the title compound (212 mg, 71.2%).

reactant | (5-methyl-7-p-tolylpyrazolo[1,5-a]pyrimidin-6-yl)methanol | 1.18 mmol, 300 mg | CC1=NC=2N(C(=C1CO)C1=CC=C(C=C1)C)N=CC2 | C15H15N3O
reactant | PCC | 1.78 mmol, 383 mg | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
solvent | CH2Cl2 | 24 mL | C(Cl)Cl | CH2Cl2
product | 5-Methyl-7-p-tolylpyrazolo[1,5-a]pyrimidine-6-carbaldehyde | 212 mg, 71.2% | CC1=NC=2N(C(=C1C=O)C1=CC=C(C=C1)C)N=CC2 | C15H13N3O
